US05482949
Preparation of [6-(n-butylsulfonoyl)-2-[4-(n-butylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[3-(1-piperidinyl)propyloxy]-phenyl] methanone
2.5 g (4.77 mmol) of [6-hydroxy-2-[4-hydroxyphenyl]benzo[b]thien-3-yl][4-[3-(1-piperidinyl)propyloxy]phenyl]methanone hydrochloride was dissolved in 100 mL of THF, 3.9 g (39 mmol) of triethylamine and 10 mg of DMAP were added. The reaction mixture was stirred for 15 minutes at room temperature and under a nitrogen blanket. 4 g (25.5 mmol) of n-butylsulfonoyl chloride in 15 mL of THF was slowly added. The reaction was allowed to proceed for eighteen hours at room temperature and under nitrogen. The reaction was quenched with the addition of 25 mL MeOH and volume reduced in vacuo. The crude product was chromatographed on a silica gel column, eluted with CHCl3 --MeOH (19:1 v/v). The desired fractions were determined by TLC, combined, and evaporated to a tan oil.

reactant | [6-hydroxy-2-[4-hydroxyphenyl]benzo[b]thien-3-yl][4-[3-(1-piperidinyl)propyloxy]phenyl]methanone hydrochloride | 4.77 mmol, 2.5 g | Cl.OC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCCN2CCCCC2)C2=CC=C(C=C2)O)C1
reactant | triethylamine | 39 mmol, 3.9 g | C(C)N(CC)CC | C6H15N
reactant | n-butylsulfonoyl chloride | 25.5 mmol, 4 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [6-(n-butylsulfonoyl)-2-[4-(n-butylsulfonoyl)phenyl]benzo[b]thien-3-yl][4-[3-(1-piperidinyl)propyloxy]-phenyl] methanone | C(CCC)S(=O)(=O)C=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCCN2CCCCC2)C2=CC=C(C=C2)S(=O)(=O)CCCC)C1 | C37H45NO6S3
